US07888366B2
A solution of 2-norbornane methanol (1.3 g, 10.3 mmol) in dimethylformamide was added to a cooled (0° C.) slurry of sodium hydride (450 mg, 11.33 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. Again, cooled (0° C.), then a solution of 2,6-difluorobenzonitrile (1.58 g, 11.33 mmol) in dimethylfomamide was added, stirred overnight at room temperature. The reaction mixture was poured on crushed-ice water, stirred. The reaction mixture was extracted with ethyl acetate, dried, filtered and concentrated. Purification by silica gel chromatography (1:1 hexanes in dichloromethane) yielded 986 mg of 2-fluoro-5-(bicyclo[2.2.1]hept-2-ylmethoxy)benzonitrile.

reactant | 2-norbornane methanol | 10.3 mmol, 1.3 g | C12C(CC(CC1)C2)CO | C8H14O
reactant | sodium hydride | 11.33 mmol, 450 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 11.33 mmol, 1.58 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-5-(bicyclo[2.2.1]hept-2-ylmethoxy)benzonitrile | 986 mg | FC1=C(C#N)C=C(C=C1)OCC1C2CCC(C1)C2 | C15H16FNO
